US08865750B2
Ethyl bromoacetate (4.0 g, 30.0 mmol) was added to a solution of p-toluidine (2.1 g, 20 mmol) and sodium acetate (2.1 g, 26 mmol) in ethanol (26 mL). The resulting solution was warmed to 80° C. and stirred for 1 h before being cooled to room temperature. The reaction was quenched with water (20 mL) and the aqueous fraction extracted with ethyl acetate (3×20 mL). The organic fractions were combined, dried (MgSO4) and filtered, and the solvent was removed under reduced pressure. Silica chromatography (0-20% ethyl acetate/hexane) provided ethyl 2-(p-tolylamino)acetate as a pale oil (1.9 g, 50%). Ethyl 2-(p-tolylamino)acetate (260 mg, 1.4 mmol) was dissolved in toluene (5 mL). Methyl benzylisocyanate (200 mg, 1.4 mmol) was added to this solution. The mixture was heated to reflux and stirred for 5 h, until TLC analysis demonstrated that the reaction was complete. The reaction mixture was then cooled to room temperature, and the solvent was removed under reduced pressure. Silica chromatography (0-20% ethyl acetate/hexane) provided ethyl 2-[3-(4-methylbenzyl)-1-p-tolylureido]acetate as a pale oil (455 mg, 98%). Ethyl 2-[3-(4-methylbenzyl)-1-p-tolylureido]acetate (455 mg, 1.3 mmol) was dissolved in THF (10 mL) and added dropwise to a solution of NaH (68 mg, 2.8 mmol) in THF (10 mL) at 0° C. The reaction mixture was allowed to warm to room temperature slowly and stirred for 18 h before the reaction was quenched with water (5 mL). The aqueous fraction was then extracted with dichloromethane (3×20 mL). The organic fractions were combined, dried (MgSO4), and filtered, and the solvent was removed under reduced pressure. Column chromatography (0-20% ethyl acetate/hexane) provided 14 as a white solid.

reactant | Ethyl 2-(p-tolylamino)acetate | 1.4 mmol, 260 mg | C1(=CC=C(C=C1)NCC(=O)OCC)C | C11H15NO2
reactant | Methyl benzylisocyanate | 1.4 mmol, 200 mg | CC(C1=CC=CC=C1)N=C=O | C9H9NO
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-[3-(4-methylbenzyl)-1-p-tolylureido]acetate | 455 mg, 98% | CC1=CC=C(CNC(N(C2=CC=C(C=C2)C)CC(=O)OCC)=O)C=C1 | C20H24N2O3
